US05807883
A mixture of 11 g of N-(3-ethylphenyl)acetamide, 9 g of copper powder, 19.8 g of potassium carbonate and 26.7 g of m-bromoanisole was stirred at 200° C. for 3 days. Insolubles were filtered off from the reaction mixture, and the filtrate was purified by silica gel column chromatography [ethyl acetate-hexane (1:3)]. To the resulting substance were added 16.6 g of potassium hydroxide, 8.7 ml of water and 170 ml of ethanol, and the whole was refluxed for 1 hour. The solvent was removed from the reaction mixture by evaporation, and water and ethyl acetate were added to the residue. After the organic layer was collected by separation, washed and dried, the solvent was removed by evaporation to afford 15.08 g of N-(3-ethylphenyl)-N-(3-methoxyphenyl)amine as an oil. IR (Nujol) (cm-1): 3400, 1600, 1490, 1460, MS (m/z): 227 (M+, base).

reactant | N-(3-ethylphenyl)acetamide | 11 g | C(C)C=1C=C(C=CC1)NC(C)=O | C10H13NO
reactant | potassium carbonate | 19.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-bromoanisole | 26.7 g | BrC=1C=C(C=CC1)OC | C7H7BrO
catalyst | copper | 9 g | [Cu] | Cu
product | N-(3-ethylphenyl)-N-(3-methoxyphenyl)amine | 15.08 g | C(C)C=1C=C(C=CC1)NC1=CC(=CC=C1)OC | C15H17NO
